US06071927
2-Bromo-4-trifluoromethoxy-allyloxybenzene
To a solution of 2-bromo-4-trifluoromethoxyphenol (Description 11; 8 g, 0.03 mol) and K2CO3 (8.6 g, 0.06 mol) in dimethylformamide (100 ml) was added allyl bromide (4 ml, 0.045 mol). The solution was stirred for 4 h. at room temperature undre nitrogen whereupon water (400 ml) and ethyl acetate (3×100 ml) were added and the combined organic phase was washed with water (200 ml), saturated brine (200 ml), dried (MgSO4) and the solvent removed in vacuo. The residue was purified by chromatography on silica gel (eluting with 5% ethyl acetate in hexane) to give the title compound as a yellow oil 1H NMR (250 MHz, CDCl3) δ4.60 (2H, dt, J 5, 1.6 Hz), 5.33 (1H, dq, J 10.5, 1.4 Hz), 5.48 (1H, dq, J 17.3, 1.6 Hz), 6.04 (1H, m), 6.86 (1H, d, J 9 Hz, 7.13 (1H, dd, J 8.4, 2.7 Hz), and 7.45 (1H, d, J 2.8 Hz).

reactant | 2-bromo-4-trifluoromethoxyphenol | 0.03 mol, 8 g | BrC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4BrF3O2
reactant | K2CO3 | 0.06 mol, 8.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 0.045 mol, 4 ml | C(C=C)Br | C3H5Br
reactant | water | 400 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-4-trifluoromethoxy-allyloxybenzene | BrC1=C(C=CC(=C1)OC(F)(F)F)OCC=C | C10H8BrF3O2
